US06093718
A solution of 4,6-dichloropyrimidine (5.22 g), ethyl isonipecotate (5.50 g) and triethylamine (7 ml) in ethanol (60 ml) was stirred at room temperature for 2 hours, and solvent removed in vacuo. The crude mixture partitioned between ethyl acetate (100 ml) and water (50 ml), washed with brine, dried (MgSO4) and solvent removed to give 1-(6-chloropyrimidin-4-yl)-4-(ethoxycarbonyl)piperidine.

reactant | 4,6-dichloropyrimidine | 5.22 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ethyl isonipecotate | 5.50 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-(6-chloropyrimidin-4-yl)-4-(ethoxycarbonyl)piperidine | ClC1=CC(=NC=N1)N1CCC(CC1)C(=O)OCC | C12H16ClN3O2
